US07485634B2
Preparation of 3-(4-fluorobenzoyl)-1-hydroxy-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester
To a suspension of 3-(4-fluorobenzoyl)-1-oxo-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester (784 mg, 2 mmol) in EtOH (11 mL) and AcOH (3 mL) was added NaBH3CN (500 mg, 8 mmol) and the mixture was stirred at 20° C. overnight. It was then basified with 28% ammonium hydroxide and extracted with DCM. The combined organic layer was washed with water and dried over MgSO4. Evaporation of solvent gave a crude product, which was purified by column chromography on silica gel and eluted with MeOH-DCM (1:19) to give the title compound (450 mg); 1H-NMR (CDCl3): δ 9.61 (1H, s), 8.41 (1H, m), 7.41 (1H, m), 7.25-7.36 (5H, m), 7.05 (2H, m), 4.93 (1H, m), 4.57 (1H, d), 4.42 (3H, m), 3.85 (1H, m), 1.35 (3H, d). MS (ES): 395 (MH+).

reactant | 3-(4-fluorobenzoyl)-1-oxo-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | 2 mmol, 784 mg | C(C)OC(=O)C1=CN(CC(C2=C1NC=1C=CC=CC21)=O)C(C2=CC=C(C=C2)F)=O | C22H17FN2O4
reactant | NaBH3CN | 8 mmol, 500 mg | [BH3-]C#N.[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | EtOH | 11 mL | CCO | C2H6O
solvent | AcOH | 3 mL | CC(=O)O | C2H4O2
product | 3-(4-fluorobenzoyl)-1-hydroxy-1,2,3,6-tetrahydroazepino[4,5-b]indole-5-carboxylic acid ethyl ester | 450 mg | C(C)OC(=O)C1=CN(CC(C2=C1NC=1C=CC=CC21)O)C(C2=CC=C(C=C2)F)=O | C22H19FN2O4
